US07754727B2
A stirred mixture of (3R*,4R*)-4-(3-bromo-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid t-butyl ester (150 mg, 0.3 mmol), 3-hydroxyphenylboronic acid (48 mg, 0.35 mmol), dimethoxyethane (3 mL), H2O (1 mL), tetrakis-(triphenylphosphin)-palladium (21 mg, 0.02 mmol) and Na2CO3 (47 mg, 0.45 mmol) is heated at reflux under argon for 16 h. The mixture is cooled to RT, dimethoxyethane is removed in vacuo and the residue is diluted with aqueous 2N Na2CO3 solution containing a few mL of concentrated NH4OH. The aqueous layer is extracted three times with CH2Cl2. The combined organic extracts are dried (Na2SO4) and evaporated in vacuo. Flash chromatography of the dark residue (SiO2, hexane/ethyl acetate) affords (3R*,4R*)-4-(3′-hydroxy-biphenyl-3-yl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid t-butyl ester as a yellowish resin: MS 508.4 [M−H]−; retention time 8.01 min (HPLC, Nucleosil C18; 5→100% CH3CN in H2O within 8 min, then 100% CH3CN for 2 min).

reactant | (3R*,4R*)-4-(3-bromo-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid t-butyl ester | 0.3 mmol, 150 mg | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC(=CC=C1)Br)OCC1=CC2=CC=CC=C2C=C1 | C27H30BrNO3
reactant | 3-hydroxyphenylboronic acid | 0.35 mmol, 48 mg | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | dimethoxyethane | 3 mL | C(OC)COC | C4H10O2
reactant | Na2CO3 | 0.45 mmol, 47 mg | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrakis-(triphenylphosphin)-palladium | 0.02 mmol, 21 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | H2O | 1 mL | O | H2O
product | (3R*,4R*)-4-(3′-hydroxy-biphenyl-3-yl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C=1C=C(C=CC1)C1=CC(=CC=C1)O)OCC1=CC2=CC=CC=C2C=C1 | C33H35NO4
